US07186724B2
3-Piperidin-4-yl-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester.
To a room temperature solution of 4-(3-hydroxy-2-methoxycarbonyl-7-trifluoromethyl-2,3-dihydro-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (6.00 g, 13.0 mmol) in DCM (30 mL) was added TFA (30 mL) causing rapid gas evolution. After 5 min, the reaction was stirred at 40° C. for 5.5 h. After cooling to room temperature, the reaction was poured into 20% aqueous potassium carbonate (400 mL) and extracted with DCM (2×200 mL). The combined extracts were dried over magnesium sulfate, filtered, and the solvent removed to give a thick oil. After drying under high vacuum 4.37 g (98%) of the desired product was obtained as a white foam.

reactant | 4-(3-hydroxy-2-methoxycarbonyl-7-trifluoromethyl-2,3-dihydro-benzo[b]thiophen-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 13.0 mmol, 6.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1(C2=C(SC1C(=O)OC)C(=CC=C2)C(F)(F)F)O | C21H26F3NO5S
reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | potassium carbonate | 400 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Piperidin-4-yl-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(S1)C(=CC=C2)C(F)(F)F)C2CCNCC2 | C16H16F3NO2S
